US05182263
1,1-dimethylethyl 4-[[2-(1,1-dimethylethyl)-2H-tetrazol-5-yl]methyl]benzenepropanoate (3.0 g, 8.7 mmol) was dissolved in trifluoroacetic acid (33 mL) and stirred at room temperature under argon for 12 hours. The mixture was concentrated and then dissolved in water (50 ml). After adding enough sat. NaHCO3 to raise the pH to 8, the solution was washed with diethyl ether (2×25 mL). The aqueous layer was acidified to pH 3 with 1N HCl and the product collected by suction filtration. Recrystallization from hexanes gave 4-[[2-(1,1-dimethylethyl)-2H-tetrazol-5-yl]methyl]benzene-propanoic acid (1.5 g, 5.7 mmol) in 66% yield, mp. 139°-141° C.

reactant | 1,1-dimethylethyl 4-[[2-(1,1-dimethylethyl)-2H-tetrazol-5-yl]methyl]benzenepropanoate | 8.7 mmol, 3.0 g | CC(C)(C)N1N=C(N=N1)CC1=CC=C(C=C1)CCC(=O)OC(C)(C)C | C19H28N4O2
solvent | trifluoroacetic acid | 33 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 4-[[2-(1,1-dimethylethyl)-2H-tetrazol-5-yl]methyl]benzene-propanoic acid | 5.7 mmol, 1.5 g, 66% yield | CC(C)(C)N1N=C(N=N1)CC1=CC=C(C=C1)CCC(=O)O | C15H20N4O2
